US08278324B2
[6-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]acetic acid
2M Sodium hydroxide (2 ml) was added to a suspension of ethyl[6-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]acetate (Preparation 23; 80 mg, 0.17 mmol) in ethanol (2 ml). The reaction mixture was stirred at room temperature for 2 hours. The solvent was evaporated and the residue diluted with water (5 ml). The solution was acidified with acetic acid and extracted with ethyl acetate (3×5 ml). The aqueous phase was evaporated and the residue purified by MDAP to give the title compound as a colourless solid (7 mg). 1H NMR (400 MHz, d4MeOH) δ: 1.46 (6H, d), 2.55 (3H, s), 3.19 (2H, t), 3.35 (2H, s), 3.67 (2H, t), 3.78 (2H, s), 4.53 (2H, s), 4.95 (1H, m) (part obscured by water peak), 7.20 (1H, d), 7.54 (1H, d), 7.85 (1H, d), 8.50-8.60 (2H, m).

reactant | Sodium hydroxide | 2M, 2 ml | [OH-].[Na+]
reactant | ethyl[6-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]acetate | 0.17 mmol, 80 mg | C(C)OC(CN1CC2=CC=C(C(=C2CC1)C)C1=NOC(=N1)C1=CC(=C(C=C1)OC(C)C)C#N)=O | C26H28N4O4
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | [6-(5-{3-Cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-5-methyl-3,4-dihydro-2(1H)-isoquinolinyl]acetic acid | 7 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C(=C2CCN(CC2=CC1)CC(=O)O)C | C24H24N4O4
